US08097720B2
Step 2: 2-Formyl-4,5-dimethoxyphenyl dimethylsulphamate
Dissolve 16.2 g (0.0889 mol) of 3,4-dimethoxy-6-hydroxybenzaldehyde in 80 ml of DMF. Cool to 10° C. and add in portions 24.6 g (0.178 mol) of potassium carbonate. Allow to return to ambient temperature and stir for 30 minutes. Cool to approximately 10° C. and pour in dropwise 10.1 ml (0.093 mol) of N,N-dimethylsulphamoyl chloride. Allow to return to ambient temperature and stir for 2 h. Pour the reaction mixture into 600 g of water and ice and stir for 1 h at ambient temperature. The precipitate formed is filtered off and washed 3 times with 50 ml of water each time and then dried in vacuo. 21.3 g of title product are obtained.

reactant | 3,4-dimethoxy-6-hydroxybenzaldehyde | 0.0889 mol, 16.2 g | COC=1C=C(C=O)C(=CC1OC)O | C9H10O4
reactant | potassium carbonate | 0.178 mol, 24.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylsulphamoyl chloride | 0.093 mol, 10.1 ml | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | water | 600 g | O | H2O
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 2-Formyl-4,5-dimethoxyphenyl dimethylsulphamate | 21.3 g, Yield=83% | CN(S(OC1=C(C=C(C(=C1)OC)OC)C=O)(=O)=O)C | C11H15NO6S
